US06887871B2
b) 4-Chloro-2-{[(1R)-3-iodo-1-phenylpropyl]oxy}benzonitrile
4-Chloro-2-{[(1R)-3-chloro-1-phenylpropyl]oxy}benzonitrile (220mg, 0.718 mmol) was dissolved in acetone (20 ml) which had previously been saturated with sodium iodide and the solution was heated under reflux for 18 h. The reaction mixture was cooled, filtered, evaporated and the residue partitioned between water and ethyl acetate. The organic layer was separated, washed twice with water and dried (magnesium sulphate). The solvent was evaporated to leave 0.24 g (84%) of the product as a yellow oil. This was used without purification for the next step.

reactant | 4-Chloro-2-{[(1R)-3-chloro-1-phenylpropyl]oxy}benzonitrile | 0.718 mmol, 220mg | ClC1=CC(=C(C#N)C=C1)O[C@H](CCCl)C1=CC=CC=C1 | C16H13Cl2NO
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-Chloro-2-{[(1R)-3-iodo-1-phenylpropyl]oxy}benzonitrile | 0.24 g, 84% | ClC1=CC(=C(C#N)C=C1)O[C@H](CCI)C1=CC=CC=C1 | C16H13ClINO
